US08664220B2
Step 1: 5-(4-Bromo-phenyl)-3-methyl-isoxazole-4-carboxylic acid hydrazide
5-(4-Bromo-phenyl)-3-methyl-isoxazole-4-carboxylic acid (0.061 g, 2.16 mmol) was dissolved in THF (5 mL) then 1,1′-carbonyldiimidazole (0.390 g, 2.38 mmol) was added and the reaction was heated to 70° C. for 40 minutes. The reaction was then cooled to 0° C. and hydrazine monohydrate (0.220 mL, 4.32 mmol) was added. The reaction was then allowed to slowly warm to room temperature and stirred overnight. Standard aqueous workup afforded the title compound, which was brought to the next step without further purification.

reactant | 5-(4-Bromo-phenyl)-3-methyl-isoxazole-4-carboxylic acid | 2.16 mmol, 0.061 g | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C(=O)O | C11H8BrNO3
reactant | 1,1′-carbonyldiimidazole | 2.38 mmol, 0.390 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | hydrazine monohydrate | 4.32 mmol, 0.220 mL | O.NN
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 5-(4-Bromo-phenyl)-3-methyl-isoxazole-4-carboxylic acid hydrazide | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C(=O)NN | C11H10BrN3O2
